US06897224B2
540 mg (2.13 mmol) of 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid (WO 00/32584) in 15 ml of DMF is mixed at −5° C. under argon with 0.18 ml of thionyl chloride. After 20 minutes of stirring at −3° C. to +3° C., 470 mg (3.26 mmol) of 5-aminoquinoline is added. It is allowed to heat to room temperature, stirred for another 16 hours, mixed with 10% citric acid, extracted with ethyl acetate, the organic phase is washed with water and dried (Na2SO4). After chromatography on silica gel with hexane-ethyl acetate (0-75%), 680 mg of N-(quinolin-4-yl)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid amide is obtained, which is dissolved in 22 ml of DMF and cooled to 0° C. The solution is mixed with 1.80 ml of (trifluoromethyl)trimethylsilane and 2.43 g of cesium carbonate and stirred for 16 hours at room temperature. Water is added, extracted with ethyl acetate, the organic phase is washed with water and dried on sodium sulfate. The intermediate product that is concentrated by evaporation is taken up in 10 ml of THF, and 5.5 ml of a 1 M solution of tetrabutylammonium fluoride is added. It is stirred for 1.5 hours, water is added, extracted with ethyl acetate, the organic phase is washed with water and dried on sodium sulfate. After chromatography on silica gel with hexane-ethyl acetate (0-70%), 420 mg of product is obtained.

reactant | 4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid | 2.13 mmol, 540 mg | FC=1C=CC(=C(C1)C(CC(C(=O)O)=O)(C)C)OC | C13H15FO4
reactant | thionyl chloride | 0.18 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-aminoquinoline | 3.26 mmol, 470 mg | NC1=C2C=CC=NC2=CC=C1 | C9H8N2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
product | N-(quinolin-4-yl)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid amide | 680 mg | N1=CC=C(C2=CC=CC=C12)NC(C(CC(C)(C)C1=C(C=CC(=C1)F)OC)=O)=O | C22H21FN2O3
